US08304419B2
Step B: 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene
2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene (13.25 g, 36.0 mmol) and NBS (6.41 g, 36.0 mmol) were combined in carbon tetrachloride (150 mL) with a catalytic amount of AIBN (0.296 g, 1.800 mmol) and stirred at reflux for 16 h. The reaction mixture was washed with water, dried over MgSO4, filtered and concentrated to dryness. The residue was purified by chromatography on 330 g silica gel eluted with 0 to 10% Et2O in hexanes to give the desired product, 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene (10.04 g, 22.47 mmol, 62.4% yield), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.53-7.67 (m, 3H), 6.78 (s, 1H), 4.75 (s, 2H).

reactant | 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-1-chloro-3-fluoro-4-methylbenzene | 36.0 mmol, 13.25 g | BrC=1C=C(C(=C(C1)OC1=C(C=CC(=C1F)C)Cl)Cl)F | C13H7BrCl2F2O
reactant | NBS | 36.0 mmol, 6.41 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | carbon tetrachloride | 150 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | AIBN | 1.800 mmol, 0.296 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-[(5-bromo-2-chloro-3-fluorophenyl)oxy]-4-(bromomethyl)-1-chloro-3-fluorobenzene | 22.47 mmol, 10.04 g, 62.4% yield | BrC=1C=C(C(=C(C1)OC1=C(C=CC(=C1F)CBr)Cl)Cl)F | C13H6Br2Cl2F2O
